US07208524B2
To a stirred solution of 0.3 g of [2-[2-(5-cyano-2-methoxybenzenesulfonylamino)ethyl]-5-isopropylphenoxy]acetic acid, 0.107 g of glycine ethyl ester hydrochloride and 0.103 g of 1-hydroxybenzotriazole monohydrate in N,N-dimethylformamide were added 0.106 mL of triethylamine and 0.146 g of 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride under ice-cooling, and the mixture was stirred at room temperature for 15 hours. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with 1 mol/L hydrochloric acid, saturated aqueous sodium bicarbonate solution, water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by column chromatography on silica gel (eluent: ethyl acetate-hexane) to give 0.33 g of ethyl [2-[2-[2-(5-cyano-2-methoxybenzenesulfonylamino)ethyl]-5-isopropylphenoxy]-acetylamino]acetate

reactant | [2-[2-(5-cyano-2-methoxybenzenesulfonylamino)ethyl]-5-isopropylphenoxy]acetic acid | 0.3 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(OCC(=O)O)C=C(C=C1)C(C)C)OC | C21H24N2O6S
reactant | glycine ethyl ester hydrochloride | 0.107 g | Cl.C(C)OC(CN)=O
reactant | 1-hydroxybenzotriazole monohydrate | 0.103 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.146 g | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | triethylamine | 0.106 mL | C(C)N(CC)CC | C6H15N
product | ethyl [2-[2-[2-(5-cyano-2-methoxybenzenesulfonylamino)ethyl]-5-isopropylphenoxy]-acetylamino]acetate | 0.33 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(OCC(=O)NCC(=O)OCC)C=C(C=C1)C(C)C)OC | C25H31N3O7S
